US07902181B2
To a solution of (S)-1-(tert-butoxycarbonyl)piperidine-2-carboxylic acid (9.05 mg) in DMF (3 mL) was added Hunig's Base (0.019 mL) followed by HATU (15 mg). The mixture was allowed to stir at room temp for 10 min. To this solution was added in one portion (1R,2R)-methyl 1-amino-2-(4-bromophenyl)cyclopropanecarboxylate hydrochloride (11 mg) and the mixture was stirred overnight. The mixture was evaporated to dryness, the residue extracted into diethyl ether and washed well with water and brine, then dried over sodium sulfate. The sample was passed through a small silica plug/eluting with diethyl ether to give (S)-tert-butyl 2-((1R,2R)-2-(4-bromophenyl)-1-(methoxycarbonyl)cyclopropylcarbamoyl)piperidine-1-carboxylate (6 mg) as a colourless oil.

reactant | (S)-1-(tert-butoxycarbonyl)piperidine-2-carboxylic acid | 9.05 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)C(=O)O | C11H19NO4
reactant | Hunig's Base | 0.019 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 15 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (1R,2R)-methyl 1-amino-2-(4-bromophenyl)cyclopropanecarboxylate hydrochloride | 11 mg | Cl.N[C@]1([C@H](C1)C1=CC=C(C=C1)Br)C(=O)OC
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (S)-tert-butyl 2-((1R,2R)-2-(4-bromophenyl)-1-(methoxycarbonyl)cyclopropylcarbamoyl)piperidine-1-carboxylate | 6 mg | BrC1=CC=C(C=C1)[C@@H]1[C@](C1)(C(=O)OC)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C22H29BrN2O5
